US04250117
281 g (2.05 moles) of p-nitrotoluene, 125 g (2.35 moles) of ammonium chloride and 4 l of water were charged into a 10-l reaction flask. 310 g (4.74 moles) of zinc dust was added thereto at room temperature (i.e., about 20°-30° C.) over a period of 15 minutes while stirring the mixture, and the mixture was stirred for an additional 30 minutes. In this case, the temperature of the reaction system increased to 65° to 70° C. with stirring. Thereafter, the reaction mixture was filtered, and the filtrate was saturated with sodium chloride. The filtrate was allowed to stand in a cool place for 24 hours. The precipitated crystals were filtered, and recrystallized from 1 l of a benzene-petroleum ether (1:1 by volume) mixture to obtain 50 g of p-tolylhydroxyl amine.

reactant | p-nitrotoluene | 2.05 moles, 281 g | [N+](=O)([O-])C1=CC=C(C=C1)C | C7H7NO2
reactant | ammonium chloride | 2.35 moles, 125 g | [Cl-].[NH4+]
catalyst | zinc | 4.74 moles, 310 g | [Zn] | Zn
solvent | water | 4 l | O | H2O
product | p-tolylhydroxyl amine | 50 g | C1(=CC=C(C=C1)NO)C | C7H9NO
